US04228168
10.5 g of N-cyclopropylmethyl-tryptamine (i.e., 3-(2-cyclopropylmethylaminoethyl)-indole) and 9.7 g of 4-methoxycarbonylbutyryl chloride were treated in the same manner as described in Example 1. 10.1 g of N-cyclopropylmethyl-N-(4-methoxycarbonylbutyryl)-tryptamine (i.e., 3-[2-(N-cyclopropylmethyl-4-methoxycarbonylbutanamido)ethyl]-indole) were thereby obtained. Yield: 60.3%

reactant | N-cyclopropylmethyl-tryptamine | 10.5 g | C1(CC1)CNCCC1=CNC2=CC=CC=C12 | C14H18N2
reactant | 4-methoxycarbonylbutyryl chloride | 9.7 g | COC(=O)CCCC(=O)Cl | C6H9ClO3
product | N-cyclopropylmethyl-N-(4-methoxycarbonylbutyryl)-tryptamine | 10.1 g, Yield: 60.3% | C1(CC1)CN(CCC1=CNC2=CC=CC=C12)C(CCCC(=O)OC)=O | C20H26N2O3
